US07265149B2
a] 5-Iodomethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole
A suspension of 5-chloromethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole (3.2 g, 11 mmol; example 19 a]) and sodium iodide (8.25 g, 55 mmol) in acetone (56 ml) was heated under reflux conditions for 30 min. Tert butyl methyl ether was added, the solid was filtered off and the filtrate was brought to dryness under reduced pressure. The residue was dissolved in tert butyl methyl ether, washed with ice water/brine 1/1 and the aqueous layer was extracted two times with tert butyl methyl ether. The combined extracts were washed with aqueous sodium thiosulfate solution and brine and dried over sodium sulfate. The solvent was removed under reduced pressure to give the title compound as yellow oil which was used in the next step without further purification.

reactant | 5-chloromethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC=C(C=C1)OC(F)(F)F | C12H10ClF3N2O
reactant | sodium iodide | 55 mmol, 8.25 g | [I-].[Na+]
reactant | Tert butyl methyl ether | COC(C)(C)C | C5H12O
solvent | acetone | 56 ml | CC(=O)C | C3H6O
product | 5-Iodomethyl-1-methyl-3-(4-trifluoromethoxy-phenyl)-1H-pyrazole | ICC1=CC(=NN1C)C1=CC=C(C=C1)OC(F)(F)F | C12H10F3IN2O
